US09388189B2
b) (S)-2-(1-((5-((3-Aminophenyl)thio)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
3-((4-Chloro-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)thio)aniline (100 mg, 0.25 mmol) was treated with (S)-1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethanaminium chloride (67 mg, 0.25 mmol), cesium fluoride (15 mg, 0.10 mmol), N,N-diisopropylethylamine (400 μl, 2.3 mmol) and tert-butanol (0.78 ml) according to Preparation 163. The residue (100 mg, 80% purity) was used in the next synthetic step without further purification.

reactant | 3-((4-Chloro-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)thio)aniline | 0.25 mmol, 100 mg | ClC=1C2=C(N=CN1)N(C=C2SC=2C=C(N)C=CC2)COCC[Si](C)(C)C | C18H23ClN4OSSi
reactant | (S)-1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethanaminium chloride | 0.25 mmol, 67 mg | [Cl-].CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)[NH3+]
reactant | cesium fluoride | 0.10 mmol, 15 mg | [F-].[Cs+]
reactant | N,N-diisopropylethylamine | 2.3 mmol, 400 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tert-butanol | 0.78 ml | C(C)(C)(C)O | C4H10O
product | (S)-2-(1-((5-((3-Aminophenyl)thio)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | NC=1C=C(C=CC1)SC1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C33H38N8O2SSi
